US04963590
1,2-Diacetoxy-3,5-dinitrobenzene
A catalytic amount of concentrated sulfuric acid was added to a solution containing 2.0 g of 3,5-dinitrocatechol in 15 ml of acetanhydride and the solution was mixed for 1/2 hours in 50°-60° C. Ice water was added to the reaction mixture and the solution was mixed in 0° C. whereby the product was crystallized. The product was filtered and washed with water and dried. Yield 2.75 g (97%), m.p. 115°-117° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3,5-dinitrocatechol | 2.0 g | [N+](=O)([O-])C1=C(C(O)=CC(=C1)[N+](=O)[O-])O | C6H4N2O6
solvent | acetanhydride | 15 ml | CC(=O)OC(=O)C | C4H6O3
product | 1,2-Diacetoxy-3,5-dinitrobenzene | C(C)(=O)OC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])OC(C)=O | C10H8N2O8
